US04243678
R1 =--CH3, R=1,2,3,4-tetrahydro-1-naphthyl, n=3 14.7 g of 1-amino-1,2,3,4-tetrahydronaphthalene and 9.7 g of ethyl 4-bromobutyrate are stirred together for 48 hours at room temperature. After addition of 200 ml of diethyl ether thereto the resulting precipitate is filtered off, and the filtrate is shaken with dilute hydrochloric acid. The hydrochloric acid extract is neutralized (pH approx. 7) with dilute ammonia solution. The separated oil is taken up in diethyl ether, and the residue (10.9 g), which remains after drying and distilling off the solvent, is taken up in 100 ml of benzene. After the addition of 5.9 g of ethyldiisopropylamine thereto, 3.6 g of acetyl chloride are added slowly and dropwise while stirring. After 3 hours the resulting reaction mixture is mixed with 200 ml of diethyl ether and shaken successively with water, dilute hydrochloric acid and sodium bicarbonate solution. The residue (12.4 g), remaining after drying and distilling off the solvent, is taken up in 100 ml of benzene and mixed with a solution of 3.0 g of potassium hydroxide in 20 ml of ethanol. After 24 hours the mixture is shaken out with water, and the aqueous phase is acidified. The initial oily precipitate is taken up in dichloromethane. After distilling off the solvent, the product crystallizes out after several days. It is recrystallized from a mixture (2:1) of isopropyl alcohol and petrol ether to obtain 7.9 g (57.7% of theory) of 4-[N-(1,2,3,4-tetrahydro-1-naphthyl)acetamido]butyric acid, MP 141° to 142°.

reactant | 1-amino-1,2,3,4-tetrahydronaphthalene | NC1CCCC2=CC=CC=C12 | C10H13N
reactant | ethyl 4-bromobutyrate | 9.7 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 4-[N-(1,2,3,4-tetrahydro-1-naphthyl)acetamido]butyric acid | 7.9 g, 57.7% | C1(CCCC2=CC=CC=C12)N(C(C)=O)CCCC(=O)O | C16H21NO3
